US07838547B2
1-Methyl-4-(4-nitrophenyl)octahydropyrrolo[3,2-b]pyrrole
A mixture of 1-(4-nitrophenyl)octahydropyrrolo[3,2-b]pyrrole (0.7 g), formaldehyde (37%; 0.27 ml), formic acid (0.28 ml) and dioxane (1 ml) was heated to reflux for two hours. The cooled reaction mixture was mixed with hydrochloric acid (2M; 1.7 ml) and concentrated. The residue was taken up in water, and potassium hydroxide was added until the reaction was strongly alkaline. The resulting precipitate was filtered off with suction. The product with the molecular weight of 247.30 (C13H17N3O2); MS (ESI): 248 (M+H+) was obtained in this way.

reactant | 1-(4-nitrophenyl)octahydropyrrolo[3,2-b]pyrrole | 0.7 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C2C(CC1)NCC2 | C12H15N3O2
reactant | formaldehyde | 0.27 ml | C=O | CH2O
reactant | formic acid | 0.28 ml | C(=O)O | CH2O2
reactant | hydrochloric acid | 2M, 1.7 ml | Cl | ClH
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 1-Methyl-4-(4-nitrophenyl)octahydropyrrolo[3,2-b]pyrrole | CN1C2C(CC1)N(CC2)C2=CC=C(C=C2)[N+](=O)[O-] | C13H17N3O2
